US04792561
A mixture of 11.6 mg of cuprous iodide, 86 mg of bis (triphenylphosphine)palladium(II)dichloride, 1.0 g of 6-ethynyl-3,4-dihydrocarbostyril and 3-bromopyridine were reacted as shown in Example 9, and the product isolated in a similar fashion, giving 6-[2-(3-pyridyl)ethynyl]-3,4-dihydrocarbostyril, m.p. 195°-197° C.

reactant | 6-ethynyl-3,4-dihydrocarbostyril | 1.0 g | C(#C)C=1C=C2CCC(NC2=CC1)=O | C11H9NO
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
catalyst | bis (triphenylphosphine)palladium(II)dichloride | 86 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-[2-(3-pyridyl)ethynyl]-3,4-dihydrocarbostyril | N1=CC(=CC=C1)C#CC=1C=C2CCC(NC2=CC1)=O | C16H12N2O
